2194-01-08 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2194-1-7**] 07:55 PM
 MULTI LUMEN - START [**2194-1-7**] 07:55 PM
 INVASIVE VENTILATION - START [**2194-1-7**] 08:00 PM
   Had afib w/RVR, w/worsening hypotension.  Was switched from levophed to
   neo, HR improved.  Then this AM HR again up to 140-170, so started on
   esmolol and HR down to 90s and MAPs improved.
   .
   Received 5L LR, 1unit PRBCs.
   Allergies:
   Sulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2194-1-7**] 11:45 PM
   Vancomycin - [**2194-1-8**] 12:50 AM
   Levofloxacin - [**2194-1-8**] 02:03 AM
   Fluconazole - [**2194-1-8**] 03:30 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 3 mcg/Kg/min
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-1-8**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-1-8**] 12:39 AM
   Midazolam (Versed) - [**2194-1-8**] 06:29 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-8**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 120 (97 - 160) bpm
   BP: 108/92(101) {68/42(51) - 129/92(101)} mmHg
   RR: 17 (17 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 9 (4 - 10)mmHg
   Total In:
                                                                 11,717 mL
                                                                  3,884 mL
   PO:
   TF:
   IVF:
                                                                 10,317 mL
                                                                  3,884 mL
   Blood products:
                                                                  1,400 mL
   Total out:
                                                                  1,925 mL
                                                                    273 mL
   Urine:
                                                                    275 mL
                                                                    148 mL
   NG:
                                                                     50 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  9,792 mL
                                                                  3,611 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/34/176/20/-1
   Ve: 10.8 L/min
   PaO2 / FiO2: 440
   Physical Examination
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated,
   intubated, anasarcic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: scattered )
   Abdominal: Soft, Distended, Tender: over large abd midline incision,
   decreased BS, dressing c/d/i
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, stage II coccygeal decub ulcer, dressing c/d/i
   Neurologic: Follows simple commands, Responds to: Noxious stimuli,
   Movement: No spontaneous movement, Sedated, Tone: Not assessed
   Labs / Radiology
   134 K/uL
   10.8 g/dL
   217 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.3 mEq/L
   27 mg/dL
   107 mEq/L
   137 mEq/L
   30.0 %
   41.6 K/uL
        [image002.jpg]
                            [**2194-1-7**]  08:41 PM
                            [**2194-1-7**]  08:47 PM
                            [**2194-1-7**]  11:15 PM
                            [**2194-1-8**]  12:33 AM
                            [**2194-1-8**]  05:31 AM
                            [**2194-1-8**]  05:50 AM
   WBC
   41.6
   Hct
   28.3
   31.5
   30.0
   Plt
   134
   Cr
   1.1
   TCO2
   21
   17
   23
   Glucose
   217
   Other labs: PT / PTT / INR:20.7/32.7/1.9, CK / CKMB / Troponin-T:58/3/,
   Fibrinogen:350 mg/dL, Lactic Acid:2.9 mmol/L, Ca++:7.5 mg/dL, Mg++:1.2
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assesment: This is a 64 year-old female with a history of newly
   diagnosed pelvic mass (likely endometrial CA), afib, DM II, and obesity
   who presents with b/l hydronephrosis, ARF, and b/l DVTs now s/p ex-lap
   currently intubated and on pressors.
   .
   Plan:
   # Post-op hypotension - In setting of likely large amt of 3rd spacing
   from intra-op volume losses. Briefly required both neo and levophed in
   OR and currently just on levophed. Is 6L positive over course of day
   but still appears dry on hemodynamic monitoring with CVP 3 on arrival
   in addition to 5 PEEP. HR and BPs responded nicely to 500 cc LR bolus X
   2. Thus, pt is likely just hypovolemic but cannot rule out distributive
   shock given hypothermia and leukocytosis. Also cannot entirely rule out
   cardiogenic shock, but this is much less likely. Also on differential
   includes massive PE, but less likely as pt has IVC filter.
   - Continue LR bolus for additional liter. Will likely need further IVF
   boluses.
   - Continue IVF boluses and levophed to maintain MAP > 65, UOP > 30
   cc/hr.
   - Monitor Hct q4h prior gyn recs. Will transfuse for Hct < 30. Give
   additional 1 unit pRBC now.
   - CVP goal [**8-27**].
   - As is dropping BPs on propofol and no plan for extubating tonight,
   will switch sedation to fentanyl and versed prn.
   - Given worsening hemodynamics, leukocytosis, and hypothermia, will
   empirically cover with IV abxs overnight with IV vancomycin, levaquin,
   and flagyl. Continue planned course of 5 days of fluconazole.
   - Check [**Last Name (un) 402**] stim, hold off of empiric stress dose steroids for now.
   - Cycle CEs.
   - Check EKG.
   - Consider TTE in am.
   - Check digoxin level. Hold digoxin for now.
   - Hold anti-HTNs (ACEI, b-blocker, HCTZ).
   - w/u for possible infection as below.
   .
   # Leukocytosis - WBC up to 31.8 from 16 pre-operatively. Likely [**2-16**]
   leukomoid stress reaction; however infection/sepsis remains a
   possibility, especially given hypotension (although feel that there are
   other potential causes of low BPs currently) and hypothermia on
   arrival.
   - Check UA, urine cx, blood cxs, CXR.
   - Check c diff toxin given report of diarrhea on gyn floor.
   - Monitor temp curve, WBC.
   - Continue fluconazole for 5 day course (day [**4-20**]) for yeast UTI.
   - Broad spectrum abxs given
   .
   # Respiratory failure
 Intubated in setting of going to OR. Will plan
   on keeping on ventilator for now given hypotension requiring pressors,
   IVFs, pRBC products.
   - Fentanyl/versed for sedation.
   - Daily wakening, RSBI.
   - Check CXR.
   - Serial ABGs.
   - No h/o lung dz, may need diuresis once hypotension resolves if
   weaning from vent becomes difficult.
   .
   # Uterine mass - Recently diagnosed and likely endometrial CA per OSH
   pathology reports. Path here pending.
   - Appreciate gyn-onc following.
   - f/u path.
   .
   # Bilateral hydronephrosis/ARF - [**2-16**] massive tumor compression.
   Associated ARF appears to be resolving with IVFs. Now s/p tumor
   debulking. Cr trend Cr 3.0 -> 2.4 -> 2.1 -> 1.7 ->1.6.
   - Continue to monitor Cr, urine output closely.
   - Bolusing IVFs as above.
   - Monitor UOP as above.
   .
   #) Bilateral DVT - Presented with bilateral LE swelling. Unclear if
   actually was on coumadin as [**Last Name (LF) 265**], [**First Name3 (LF) **] need to verify with family
   tomorrow. Now s/p IVC filter placement. V/Q scan at OSH negative for
   PE.
   - Holding anti-coagulation post-operatively for 48-72 hrs per gyn.
   .
   #) Afib - Tachycardic up to 160s intermittently in setting of increased
   pain/agitation, responds to versed boluses. HR also seems to be
   responsive to IVF boluses as above. Other considerations for
   tachycardia include infection or PE.
   - Hold anticoagulation 48-72 hours per gyn-onc.
   - Telemetry monitoring.
   - Switch digoxin to IV dosing given NPO status. Holding b-blockade
   given hypotension.
   - Check EKG.
   - Cycling CEs.
   - Consider switching over to neo gtt from levophed gtt if tachycardia
   remains persistent issue.
   - Can also consider initiation of esmolol gtt if remains persistently
   tachycardic in spite of IVF resuscitation.
   .
   #) HTN - Holding anti-HTNs given hypotension currently.
   .
   #) Decubitus Ulcer - From OSH. Stage 2 sacral decub ulcer.
   - Appreciate wound care following. Dressing changes per wound care.
   - b/l waffle boots.
   .
   #) DM type II - Holding sulfonylurea. Switching RISS to HISS.
   .
   # FEN:  NPO given recent bowel manipulation. IVFs as above. Favor
   boluses over maintenance infusions currently. Will need to consider
   further nutrition if difficult to wean from vent.
   .
   # Access: L SCV, L aline, PIV
   .
   # PPx: hep sq, PPI
   .
   # Code: Full code
   .
   # Dispo: ICU level of care for now
   .
   # Comm: with pt's son, [**Name (NI) 4546**] [**Telephone/Fax (1) 4547**] (h), [**Telephone/Fax (1) 4548**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   16 Gauge - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-08 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2194-1-7**] 07:55 PM
 MULTI LUMEN - START [**2194-1-7**] 07:55 PM
 INVASIVE VENTILATION - START [**2194-1-7**] 08:00 PM
   Remains intubated mechanically ventilated.
   Remains on vasopressor to maintain BP MAP.
   Continues to receive iv crystalloid (total 12 L) and PRBC (total 5 U)
   Upon return from OR, experienced tachycardia (A-fib with RVR) -->
   esmolol drip with good response.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Sulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2194-1-7**] 11:45 PM
   Vancomycin - [**2194-1-8**] 12:50 AM
   Levofloxacin - [**2194-1-8**] 02:03 AM
   Fluconazole - [**2194-1-8**] 03:30 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 3 mcg/Kg/min
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-1-8**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-1-8**] 12:39 AM
   Midazolam (Versed) - [**2194-1-8**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-19**] Mild
   Pain location: abdominal incision
   Flowsheet Data as of  [**2194-1-8**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 90 (90 - 160) bpm
   BP: 132/72(93) {68/42(51) - 132/92(101)} mmHg
   RR: 16 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 9 (4 - 10)mmHg
   Total In:
                                                                 11,717 mL
                                                                  4,002 mL
   PO:
   TF:
   IVF:
                                                                 10,317 mL
                                                                  4,002 mL
   Blood products:
                                                                  1,400 mL
   Total out:
                                                                  1,925 mL
                                                                    273 mL
   Urine:
                                                                    275 mL
                                                                    148 mL
   NG:
                                                                     50 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  9,792 mL
                                                                  3,729 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 17 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/34/176/20/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 440
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal, Opens eyes to voice.
   Labs / Radiology
   10.8 g/dL
   134 K/uL
   217 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.3 mEq/L
   27 mg/dL
   107 mEq/L
   137 mEq/L
   30.0 %
   41.6 K/uL
        [image002.jpg]
                            [**2194-1-7**]  08:41 PM
                            [**2194-1-7**]  08:47 PM
                            [**2194-1-7**]  11:15 PM
                            [**2194-1-8**]  12:33 AM
                            [**2194-1-8**]  05:31 AM
                            [**2194-1-8**]  05:50 AM
   WBC
   41.6
   Hct
   28.3
   31.5
   30.0
   Plt
   134
   Cr
   1.1
   TCO2
   21
   17
   23
   Glucose
   217
   Other labs: PT / PTT / INR:20.7/32.7/1.9, CK / CKMB /
   Troponin-T:58/3/0.01, Fibrinogen:350 mg/dL, Lactic Acid:2.9 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Post-operative shock, s/p exploratory laparatomy with TAH/BSO.
   RESPIRATORY FAILURE -- persistent post-op.  Significant volume
   resussitation.  Monitor ABG, CXR.  Hope to work towards SBT and
   extubation once resussitated and diuresing.
   HYPOTENSION -- attributed to hypovolemia, 3rd spacing.  Also concern
   for sepsis.  Adequate baseline cortisol, but not significant change in
   response to cortrosyn stimulation.  With adequate baseline level,
   consider holding steroids.
   A-FIB -- rapid response, now contolled with esmolol.  Monitor HR.
   FLUIDS -- significant 3rd spacing, receiving significant volume
   resusitation.  MOnitor I/O, CVP, urine output.
   RENAL FAILURE -- in setting of hydronephrosis, concern for obstruction
   (ureteral compression).  Improved.  Monitor BUN, creat, UO.
   THROMBOCYTOPENIA -- suspect related to bleeding, but possible related
   to heparin use --> d/c heparin, check HIT antibodies.
   DVT -- IVC filter in place.  To resume heparin as per GYN surgery once
   deemed safe.
   NIDDM -- monitor glucose.  Maintain glucose <150.
   ENDOMETRIAL CA -- s/p debulking.  No immediate plans for chemotherapy.
   NUTRITIONAL SUPPORT -- initiate TF once bowel ileus resolves.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   16 Gauge - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2194-01-09 07:33:00 Physician Resident Progress Note
Chief Complaint: s/p Ex lap and uterine tumor resection
   24 Hour Events:
   Pressors/Drips:
   - stopped esmolol drip for tachycardia/AF
   - on neo for hypotension (MAP > 65, U/O > 30 ccs/hr), neo weaned to 0.5
   mcg/kg/hr with fluid boluses (>8 L total since admission), SBPs in 120s
   - d/c-ed stress dose steroids
   Labs and Recs:
   - check CBC, coags, fibrinogen q6H
     (Hct, platelets increasing, fibrinogen 350 => 449)
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] wound, toe wound  urine, blood cultures -NGTD
   - daily EKG
   - gyn onc recs - none, f/u pathology - pending
   - increased Vanc to 1 gm q24H
   - added basal insulin and tightened  HISS (8 U NPH qAM, 8 U NPH qPM)
   - HIT Ab pending (checked [**2-16**] thrombocytopenia)
   Patient unable to provide history: Sedated
   Allergies:
   Sulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-8**] 02:03 AM
   Fluconazole - [**2194-1-8**] 10:00 PM
   Metronidazole - [**2194-1-9**] 12:00 AM
   Vancomycin - [**2194-1-9**] 05:05 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-1-9**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-16**] pt sedation
   Flowsheet Data as of  [**2194-1-9**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 103 (91 - 122) bpm
   BP: 123/62(79) {89/51(68) - 129/82(93)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 8 (8 - 361)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  8,105 mL
                                                                    460 mL
   PO:
   TF:
   IVF:
                                                                  8,105 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                    756 mL
                                                                    280 mL
   Urine:
                                                                    631 mL
                                                                    280 mL
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  7,349 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 335 (335 - 335) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/162/23/1
   Ve: 8.6 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   9.4 g/dL
   163 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   26 mg/dL
   108 mEq/L
   138 mEq/L
   25.5 %
   26.7 K/uL
        [image002.jpg]
                            [**2194-1-8**]  12:33 AM
                            [**2194-1-8**]  05:31 AM
                            [**2194-1-8**]  05:50 AM
                            [**2194-1-8**]  10:58 AM
                            [**2194-1-8**]  05:13 PM
                            [**2194-1-8**]  05:37 PM
                            [**2194-1-8**]  10:43 PM
                            [**2194-1-9**]  03:02 AM
                            [**2194-1-9**]  03:25 AM
                            [**2194-1-9**]  05:32 AM
   WBC
   41.6
   31.3
   28.8
   26.7
   Hct
   31.5
   30.0
   30.5
   27.2
   26.3
   25.4
   25.5
   Plt
   134
   164
   168
   173
   190
   Cr
   1.1
   1.2
   1.2
   TropT
   <0.01
   TCO2
   23
   23
   25
   Glucose
   [**Telephone/Fax (3) 4598**]
   Other labs: PT / PTT / INR:28.0/34.0/2.8, CK / CKMB /
   Troponin-T:76/3/<0.01, Fibrinogen:487 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 THROMBOCYTOPENIA, ACUTE
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
 .H/O ATRIAL FIBRILLATION (AFIB)
   Assessment: This is a 64 year-old female with a history of newly
   diagnosed pelvic mass (likely endometrial CA), afib, DM II, and obesity
   who presents with b/l hydronephrosis, ARF, and b/l DVTs now s/p ex-lap
   currently intubated and on pressors.
   .
   Plan:
   # Post-op hypotension
 Likely  large amt of 3rd spacing from intra-op
   volume losses, however sepsis is still possible.  Less likely cardiac
   etiology. [**Last Name (un) **] Stim increased <7 but started 32 so difficult to
   interpret.  Hypotension also worsened by afib w/RVR likely due to
   decreased cardiac output,  MAPs have improved on esmolol gtt.
   -given risk of infection and lack of evidence for adrenal
   insufficiency, will D/C steroids
   -Continue broad spectrum ABX for at least 24 more hours pending culture
   results ( vancomycin, levaquin, and flagyl. Also planned course of 5
   days of fluconazole for yeast in urine). f/u all cultures.
   -continue esmolol gtt for HR<110
   - Continue IVF boluses and levophed to maintain MAP > 65, UOP > 30
   cc/hr.
   - Monitor Hct q6h as well as DIC labs q6h
   - CVP goal [**8-27**].
   - Given worsening hemodynamics, leukocytosis, and hypothermia, will
   empirically cover with IV abxs overnight with IV
   - Hold anti-HTNs (ACEI, b-blocker, HCTZ)
   .
   # Leukocytosis - WBC up to 41 this morning from post-op of 31.8 from 16
   pre-op. Likely [**2-16**] stress reaction plus effect of steroids, however as
   above, infection has not been ruled out.
   - f/u  urine cx, blood cxs
   - Check c diff toxin
   - Monitor temp curve, WBC.
   - As above, Continue fluconazole for 5 day course (day [**4-20**]) for yeast
   UTI.
   - As above, Broad spectrum
   .
   # Respiratory
 Intubated for airway protection in the setting of
   volume resuscitation and hypotension. Will plan to wean the vent once
   the patient
s issues of hypotension have resolved and she is mobilizing
   her excess volume..
   - Fentanyl/versed for sedation.
   - Daily wakening, RSBI.
   - Daily CXR.
   - Serial ABGs.
   - may need diuresis once hypotension resolves if weaning from vent
   becomes difficult.
   .
   # Uterine mass - Recently diagnosed and likely endometrial CA per OSH
   pathology reports. Path here pending.
   - Appreciate gyn-onc following.
   - f/u path.
   .
   # Bilateral hydronephrosis/ARF - [**2-16**] massive tumor compression now
   resolving with IVFs and s/p tumor debulking. Cr trend Cr 3.0 -> 2.4 ->
   2.1 -> 1.7 ->1.6-> 1.1 today.
   - Continue to monitor Cr, urine output closely.
   - Bolusing IVFs as above.
   - Monitor UOP as above.
   .
   #) Bilateral DVT - Presented with bilateral LE swelling. Unclear if
   actually was on coumadin as outpt,. Now s/p IVC filter placement. V/Q
   scan at OSH negative for PE.
   - will need to verify with family tomorrow if patient was on coumadin
   - Holding anti-coagulation post-operatively for 48-72 hrs per gyn
   .
   #) Afib - Tachycardic up to 160s intermittently in setting of increased
   pain/agitation, responds to versed boluses. HR also seems to be
   responsive to IVF boluses as above. Other considerations for
   tachycardia include infection or PE.
   - Hold anticoagulation 48-72 hours per gyn-onc.
   - Telemetry monitoring.
   - continue esmolol for rate control
   - continue digoxin
   .
   #) Thrombocytopenia: Concern for HIT given decreased >50% and heparin
   products.
   -D/C sub Q heparin
   -send HIT antibody
   #) HTN - Holding anti-HTNs given hypotension currently.
   .
   #) Decubitus Ulcer - From OSH. Stage 2 sacral decub ulcer. Also ulcer
   on toe
   -f/u culture from purent toe wound.
   - Appreciate wound care following. Dressing changes per wound care.
   - b/l waffle boots.
   .
   #) DM type II
 Hyperglycemic overnight on HISS.
   -Start NPH 8qam, 8qpm
   .
   # Comm: with pt's son, [**Name (NI) 4546**] [**Telephone/Fax (1) 4547**] (h), [**Telephone/Fax (1) 4548**] (c)
   ICU Care
   Nutrition:  NPO meds for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   16 Gauge - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: IVC filter
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2194-01-10 11:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating SBT this AM.  Denies dyspnea.
   Remains off esmolol and off vasopressor.
   Sedation d/c'd last PM, remains comfortable.
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   Sulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Fluconazole - [**2194-1-8**] 10:00 PM
   Levofloxacin - [**2194-1-10**] 02:00 AM
   Vancomycin - [**2194-1-10**] 05:02 AM
   Metronidazole - [**2194-1-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-1-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-1-10**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (83 - 101) bpm
   BP: 126/65(84) {109/61(78) - 152/77(98)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 15 (11 - 349)mmHg
   Total In:
                                                                  1,742 mL
                                                                  1,212 mL
   PO:
   TF:
                                                                     38 mL
                                                                     45 mL
   IVF:
                                                                    920 mL
                                                                  1,167 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,031 mL
                                                                    535 mL
   Urine:
                                                                  1,031 mL
                                                                    495 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                    711 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (410 - 508) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/40/147/24/1
   Ve: 10 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   171 K/uL
   106 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   20 mg/dL
   107 mEq/L
   138 mEq/L
   28.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2194-1-8**]  05:13 PM
                            [**2194-1-8**]  05:37 PM
                            [**2194-1-8**]  10:43 PM
                            [**2194-1-9**]  03:02 AM
                            [**2194-1-9**]  03:25 AM
                            [**2194-1-9**]  05:32 AM
                            [**2194-1-9**]  12:07 PM
                            [**2194-1-9**]  05:31 PM
                            [**2194-1-10**]  04:02 AM
                            [**2194-1-10**]  04:10 AM
   WBC
   31.3
   28.8
   26.7
   14.1
   Hct
   27.2
   26.3
   25.4
   25.5
   25.8
   28.3
   Plt
   168
   173
   190
   171
   Cr
   1.2
   1.2
   1.0
   TCO2
   23
   25
   23
   27
   Glucose
   199
   163
   106
   Other labs: PT / PTT / INR:30.9/37.2/3.2, CK / CKMB /
   Troponin-T:76/3/<0.01, ALT / AST:[**8-26**], Alk Phos / T Bili:57/0.3,
   Fibrinogen:487 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.7 g/dL, LDH:192
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   HYPOTENSION, Post-op
 Likely  large amt of 3rd spacing from intra-op
   volume losses, however sepsis is still possible.  Less likely cardiac
   etiology. [**Last Name (un) **] Stim increased <7 but started 32 so difficult to
   interpret- steroids given o/n [**1-7**] only.  Hypotension also worsened by
   afib w/RVR likely due to decreased cardiac output. Esmolol gtt d/c
   yesterday [**2-16**] hypotension.
   RESPIRATORY FAILURE -- Respiratory Failure
 Intubated for airway
   protection in the setting of volume resuscitation and hypotension.
   Today, pt on trial of CPAP and doing well.
   FLUID -- desire net diuresis if possible.
   UTERINE MASS -- Recently diagnosed and likely endometrial vs ovarian
   CA. Path here pending.
   ACUTE RENAL FAILURE -- Bilateral hydronephrosis/ARF - [**2-16**] massive tumor
   compression now resolving with IVFs and s/p tumor debulking. Cr to 1.2
   today from high of 2.1 on admission.
   DVT, Bilateral -- Presented with bilateral LE swelling. Seems to have
   been on coumadin as outpt. Now s/p IVC filter placement. V/Q scan at
   OSH negative for PE.
   A-FIB  -- Tachycardic to 160s intermittently in setting of increased
   pain/agitation [**1-7**], responded to versed boluses. HR also seems to be
   responsive to IVF boluses as above. Other considerations for
   tachycardia include infection or PE.
   THROMBOCYTOPENIA -- Concern for HIT given decreased >50% and heparin
   products.  Would hold on heparin products until HIT antibody results
   available.
   DECUBITUS ULCER -- From home. Stage 2 sacral decub ulcer. Also ulcer on
   toe
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   16 Gauge - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2194-01-11 08:02:00 Physician Resident Progress Note
Chief Complaint: 64 yo F with MMP p/w abdominal pelvic mass (likely
   endometrioma) resulting in renal failure, bilateral LE edema.
   24 Hour Events:
   -started morphine PRN, d/c'd fentanyl/midaz
   -RSBI 50s, looks great, but didn't extubate because LOS 18L positive.
   - Trying to diurese, got 20 IV lasix x2, net negative:
   -added reglan for bowel
   - HIT ab negative, so started heparin gtt
   -ABX D/C'd in AM as not likely sepsis.
   -toe wound cx: coag + and neg staph, sparse growth, not MRSA
   Patient unable to provide history: Sedated
   Allergies:
   Sulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Fluconazole - [**2194-1-8**] 10:00 PM
   Levofloxacin - [**2194-1-10**] 02:00 AM
   Vancomycin - [**2194-1-10**] 05:02 AM
   Metronidazole - [**2194-1-10**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Heparin Sodium - [**2194-1-10**] 06:55 PM
   Furosemide (Lasix) - [**2194-1-11**] 02:12 AM
   Morphine Sulfate - [**2194-1-11**] 02:20 AM
   Other medications:
   Colace
   Metoprolol 5 mg IV q6H
   Insulin sliding scale
   Digoxin 0.125 mg daily
   Morphine sulfate 1-2 mg IV q4H:prn
   Zofran
   Paroxetine 30 mg PO daily
   Lipitor 10 mg PO daily
   amitryptiline 25 mg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-11**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 90 (76 - 101) bpm
   BP: 123/64(83) {108/52(70) - 129/66(86)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 7 (6 - 15)mmHg
   Total In:
                                                                  1,499 mL
                                                                    430 mL
   PO:
   TF:
                                                                    105 mL
                                                                     40 mL
   IVF:
                                                                  1,394 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                  1,655 mL
   Urine:
                                                                  2,745 mL
                                                                  1,655 mL
   NG:
                                                                     45 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,291 mL
                                                                 -1,225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (388 - 467) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 44
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/41/120/24/1
   Ve: 8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   239 K/uL
   10.6 g/dL
   103 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   18 mg/dL
   108 mEq/L
   141 mEq/L
   30.5 %
   14.7 K/uL
         [image002.jpg]
                            [**2194-1-9**]  03:02 AM
                            [**2194-1-9**]  03:25 AM
                            [**2194-1-9**]  05:32 AM
                            [**2194-1-9**]  12:07 PM
                            [**2194-1-9**]  05:31 PM
                            [**2194-1-10**]  04:02 AM
                            [**2194-1-10**]  04:10 AM
                            [**2194-1-10**]  06:46 PM
                            [**2194-1-11**]  03:22 AM
                            [**2194-1-11**]  03:40 AM
   WBC
   26.7
   14.1
   14.7
   Hct
   25.4
   25.5
   25.8
   28.3
   30.5
   Plt
   190
   171
   239
   Cr
   1.2
   1.0
   1.1
   1.1
   TCO2
   25
   23
   27
   27
   Glucose
   163
   106
   118
   101
   103
   Other labs: PT / PTT / INR:34.7/150.0/3.7, CK / CKMB /
   Troponin-T:76/3/<0.01, ALT / AST:[**8-26**], Alk Phos / T Bili:57/0.3,
   Fibrinogen:487 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.7 g/dL, LDH:192
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Microbiology: wound culture ([**1-8**]) with s. aureus and CNS, sparse
   growth
   Assessment and Plan
   Assessment: This is a 64 year-old female with a history of newly
   diagnosed pelvic mass (likely endometrial vs ovarian CA), afib, DM II,
   and obesity who presents with b/l hydronephrosis, ARF, and b/l DVTs now
   s/p ex-lap currently intubated while being diuresed (volume overload
   post-op).
   Plan:
   # Respiratory Failure
 Intubated for airway protection in the setting
   of volume resuscitation and hypotension. Patient doing well on PS, but
   concern that the patient will have flash pulmonary edema without the
   positive pressure of the vent.  Will try to diurese aggressively and
   plan to extubate when at least 9L diuresed off.
    -D/C fentanyl/versed and start morphine PRN
   - Daily wakening, RSBI (50 today).
   - Daily CXR.
   - As patient
s creatinine is normalized, can start Lasix PRN with goal
   -1 to -2 L negative.
   # Post-op hypotension
 Resolved x 24 hours. Intraoperative volume
   loss. Third spacing currently. Currently on PS with minimal PPV
   (PS/PEEP [**5-20**]). No evidence of sepsis (no infectious source), off
   antibiotics
   - Monitor Hct daily
   - CVP goal [**8-27**].
   - Hold anti-HTNs (ACEI, b-blocker, HCTZ)
   - Continue diuresis (goal -1 to -2 L) with IV lasix.
   # Leukocytosis
 WBC stable at ~14, likely cortisol stress response
   post-op.   As above, unlikely to be infection
   - f/u  urine cx, blood cxs
   - Check c diff toxin once pt stools
   - Monitor temp curve, WBC.
   # Elevated INR: likely in setting of poor nutritional status. Not on
   coumadin, but on heparin gtt. Unlikely shock liver 2
 to hypotension
   (LFTs normal). Unlikely DIC (platelets stable, fibrinogen levels
   normal).
   - vit K x3 days
   - Nutrition recs
   - consult heme if INR does not reverse w/ vit K.
   #) Afib w/ RVR: Patient without RVR for 24 hours, off esmolol gtt.
   However, now on no nodal agents.  Had been on diltiazem at home.
   -decrease  diltiazem to 15 mg QID
   - Telemetry monitoring.
   - change digoxin to PO
   - check dig level today
   #) Bilateral DVT - Presented with bilateral LE swelling. Seems to have
   been on coumadin as outpt. Now s/p IVC filter placement. V/Q scan at
   OSH negative for PE.  HIT antibody negative.
   - continue heparin gtt.
   #) Thrombocytopenia: Platelets now stable. Was concern for HIT given
   decreased >50% and heparin products. HIT negative, heparin gtt
   restarted.
   # Bilateral hydronephrosis/Acute renal failure - [**2-16**] massive tumor
   compression now resolving with IVFs and s/p tumor debulking. Cr to 1.1
   today from high of 2.1 on admission.
   - Continue to monitor Cr, urine output closely.
   .
   #Constipation:  Likely post-surgical.
   -continue tube feeds (increase rate slightly for better nutritional
   status).
   -start reglan
   # Uterine mass - Recently diagnosed and likely endometrial vs ovarian
   CA. Path here pending.
   - Appreciate gyn-onc following.
   - f/u path.
   #) Decubitus Ulcer - From home. Stage 2 sacral decub ulcer. Also ulcer
   on toe
   -f/u culture from purent toe wound- currently showing Staph Aureus,
   likely skin contaminant.
   - Appreciate wound care following. Dressing changes per wound care.
   - b/l waffle boots.
   #) DM type II
 Sugars well contolled with NPH.
   -NPH 8qam, 8qpm
   # Comm: with pt's son, [**Name (NI) 4546**] [**Telephone/Fax (1) 4547**] (h), [**Telephone/Fax (1) 4548**] (c)- gyn
   onc talked with pt
s family directly today while they were in visiting
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-1-10**] 11:56 AM 5 mL/hour (Nutrition
   consulted for new recs given poor intake).
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU while intubated

2194-01-12 07:25:00 Physician Resident Progress Note
Chief Complaint: s/p Ex lap
   24 Hour Events:
   - continued on PS during diuresis: goal -1 to -2 L, currently -2.5 L
   - started vitamin K for elevated INR (nutritional deficiency)
   - changed digoxin and metoprolol to PO
   - changed TFs per nutrition recs, advanced diet (OK w/ gyn-onc)
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-10**] 02:00 AM
   Vancomycin - [**2194-1-10**] 05:02 AM
   Metronidazole - [**2194-1-10**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-11**] 11:00 AM
   Heparin Sodium - [**2194-1-12**] 01:08 AM
   Morphine Sulfate - [**2194-1-12**] 05:18 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Limited [**2-16**] intubation.  Denies pain or SOB
   Flowsheet Data as of  [**2194-1-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 80 (69 - 90) bpm
   BP: 120/58(79) {100/49(66) - 122/63(82)} mmHg
   RR: 17 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                    995 mL
                                                                    229 mL
   PO:
   TF:
                                                                    150 mL
                                                                     26 mL
   IVF:
                                                                    726 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    245 mL
   Urine:
                                                                  3,455 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,460 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (427 - 496) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 53
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.43/42/143/25/3
   Ve: 8 L/min
   PaO2 / FiO2: 409
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   267 K/uL
   9.6 g/dL
   124 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   15 mg/dL
   109 mEq/L
   145 mEq/L
   27.8 %
   11.9 K/uL
        [image002.jpg]
                            [**2194-1-9**]  12:07 PM
                            [**2194-1-9**]  05:31 PM
                            [**2194-1-10**]  04:02 AM
                            [**2194-1-10**]  04:10 AM
                            [**2194-1-10**]  06:46 PM
                            [**2194-1-11**]  03:22 AM
                            [**2194-1-11**]  03:40 AM
                            [**2194-1-11**]  03:15 PM
                            [**2194-1-12**]  04:55 AM
                            [**2194-1-12**]  05:20 AM
   WBC
   14.1
   14.7
   11.9
   Hct
   25.8
   28.3
   30.5
   27.8
   Plt
   171
   239
   267
   Cr
   1.0
   1.1
   1.1
   0.9
   0.8
   TCO2
   23
   27
   27
   29
   Glucose
   106
   118
   101
   103
   112
   124
   Other labs: PT / PTT / INR:16.0/88.0/1.4, CK / CKMB /
   Troponin-T:76/3/<0.01, ALT / AST:[**8-26**], Alk Phos / T Bili:57/0.3,
   Fibrinogen:487 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.7 g/dL, LDH:192
   IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN TISSUE PERFUSION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 THROMBOCYTOPENIA, ACUTE
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
 .H/O ATRIAL FIBRILLATION (AFIB)
   Assessment: This is a 64 year-old female with a history of newly
   diagnosed pelvic mass (likely endometrial vs ovarian CA), afib, DM II,
   and obesity who presents with b/l hydronephrosis, ARF, and b/l DVTs now
   s/p ex-lap currently intubated while being diuresed (volume overload
   post-op).
   Plan:
   # Respiratory Failure
 Intubated for airway protection in the setting
   of volume resuscitation and hypotension. Patient doing well on PS, but
   concern that the patient will have flash pulmonary edema without the
   positive pressure of the vent.  Will try to diurese aggressively and
   plan to extubate when at least 9L diuresed off.
    -D/C fentanyl/versed and start morphine PRN
   - Daily wakening, RSBI (50 today).
   - Daily CXR.
   - As patient
s creatinine is normalized, can start Lasix PRN with goal
   -1 to -2 L negative.
   # Post-op hypotension
 Resolved x 24 hours. Intraoperative volume
   loss. Third spacing currently. Currently on PS with minimal PPV
   (PS/PEEP [**5-20**]). No evidence of sepsis (no infectious source), off
   antibiotics
   - Monitor Hct daily
   - CVP goal [**8-27**].
   - Hold anti-HTNs (ACEI, b-blocker, HCTZ)
   - Continue diuresis (goal -1 to -2 L) with IV lasix.
   # Leukocytosis
 WBC stable at ~14, likely cortisol stress response
   post-op.   As above, unlikely to be infection
   - f/u  urine cx, blood cxs
   - Check c diff toxin once pt stools
   - Monitor temp curve, WBC.
   # Elevated INR: likely in setting of poor nutritional status. Not on
   coumadin, but on heparin gtt. Unlikely shock liver 2
 to hypotension
   (LFTs normal). Unlikely DIC (platelets stable, fibrinogen levels
   normal).
   - vit K x3 days
   - Nutrition recs
   - consult heme if INR does not reverse w/ vit K.
   #) Afib w/ RVR: Patient without RVR for 24 hours, off esmolol gtt.
   However, now on no nodal agents.  Had been on diltiazem at home.
   -decrease  diltiazem to 15 mg QID
   - Telemetry monitoring.
   - change digoxin to PO
   - check dig level today
   #) Bilateral DVT - Presented with bilateral LE swelling. Seems to have
   been on coumadin as outpt. Now s/p IVC filter placement. V/Q scan at
   OSH negative for PE.  HIT antibody negative.
   - continue heparin gtt.
   #) Thrombocytopenia: Platelets now stable. Was concern for HIT given
   decreased >50% and heparin products. HIT negative, heparin gtt
   restarted.
   # Bilateral hydronephrosis/Acute renal failure - [**2-16**] massive tumor
   compression now resolving with IVFs and s/p tumor debulking. Cr to 1.1
   today from high of 2.1 on admission.
   - Continue to monitor Cr, urine output closely.
   .
   #Constipation:  Likely post-surgical.
   -continue tube feeds (increase rate slightly for better nutritional
   status).
   -start reglan
    # Uterine mass - Recently diagnosed and likely endometrial vs ovarian
   CA. Path here pending.
   - Appreciate gyn-onc following.
   - f/u path.
   #) Decubitus Ulcer - From home. Stage 2 sacral decub ulcer. Also ulcer
   on toe
   -f/u culture from purent toe wound- currently showing Staph Aureus,
   likely skin contaminant.
   - Appreciate wound care following. Dressing changes per wound care.
   - b/l waffle boots.
   #) DM type II
 Sugars well contolled with NPH.
   -NPH 8qam, 8qpm
   # Comm: with pt's son, [**Name (NI) 4546**] [**Telephone/Fax (1) 4547**] (h), [**Telephone/Fax (1) 4548**] (c)- gyn
   onc talked with pt
s family directly today while they were in visiting
   ICU Care
   Nutrition: TF currently off for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2194-01-12 20:20:00 Physician Resident Progress Note
Chief Complaint: s/p Ex lap
   24 Hour Events:
   - continued on PS during diuresis: goal -1 to -2 L, currently -2.5 L
   - started vitamin K for elevated INR (nutritional deficiency)
   - changed IV to PO metoprolol
   - changed TFs per nutrition recs, advanced diet (OK w/ gyn-onc)
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-10**] 02:00 AM
   Vancomycin - [**2194-1-10**] 05:02 AM
   Metronidazole - [**2194-1-10**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-11**] 11:00 AM
   Heparin Sodium - [**2194-1-12**] 01:08 AM
   Morphine Sulfate - [**2194-1-12**] 05:18 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Limited [**2-16**] intubation.  Denies pain or SOB
   Flowsheet Data as of  [**2194-1-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 80 (69 - 90) bpm
   BP: 120/58(79) {100/49(66) - 122/63(82)} mmHg
   RR: 17 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                    995 mL
                                                                    229 mL
   PO:
   TF:
                                                                    150 mL
                                                                     26 mL
   IVF:
                                                                    726 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    245 mL
   Urine:
                                                                  3,455 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,460 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (427 - 496) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 53
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.43/42/143/25/3
   Ve: 8 L/min
   PaO2 / FiO2: 409
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   267 K/uL
   9.6 g/dL
   124 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   15 mg/dL
   109 mEq/L
   145 mEq/L
   27.8 %
   11.9 K/uL
        [image002.jpg]
                            [**2194-1-9**]  12:07 PM
                            [**2194-1-9**]  05:31 PM
                            [**2194-1-10**]  04:02 AM
                            [**2194-1-10**]  04:10 AM
                            [**2194-1-10**]  06:46 PM
                            [**2194-1-11**]  03:22 AM
                            [**2194-1-11**]  03:40 AM
                            [**2194-1-11**]  03:15 PM
                            [**2194-1-12**]  04:55 AM
                            [**2194-1-12**]  05:20 AM
   WBC
   14.1
   14.7
   11.9
   Hct
   25.8
   28.3
   30.5
   27.8
   Plt
   171
   239
   267
   Cr
   1.0
   1.1
   1.1
   0.9
   0.8
   TCO2
   23
   27
   27
   29
   Glucose
   106
   118
   101
   103
   112
   124
   Other labs: PT / PTT / INR:16.0/88.0/1.4, CK / CKMB /
   Troponin-T:76/3/<0.01, ALT / AST:[**8-26**], Alk Phos / T Bili:57/0.3,
   Fibrinogen:487 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.7 g/dL, LDH:192
   IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN TISSUE PERFUSION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 THROMBOCYTOPENIA, ACUTE
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
 .H/O ATRIAL FIBRILLATION (AFIB)
   Assessment: This is a 64 year-old female with a history of newly
   diagnosed pelvic mass (likely endometrial vs ovarian CA), afib, DM II,
   and obesity who presents with b/l hydronephrosis, ARF, and b/l DVTs now
   s/p ex-lap currently intubated while being diuresed (volume overload
   post-op).
   Plan:
   # Respiratory Failure
 Intubated for during surgery [**1-7**] and remained
   intubated for airway protection and [**2-16**] concerns over risk for flash
   pulmonary edema in setting of volume overload and third spacing.
   Patient doing well on PS and diuresed 2.5L yesterday
    -extubated today
   -post extubation ABG
   -diurese prn with Lasix 20 IV
   # Post-op hypotension
 Resolved.  No evidence of sepsis (no infectious
   source), off antibiotics
   - Monitor Hct daily
   - CVP goal [**8-27**].
   - Hold anti-HTNs (ACEI, b-blocker, HCTZ)
   - Continue diuresis (goal -1 to -2 L) with IV lasix.
   # Leukocytosis
 continued to trend down to 11.9 today, likely cortisol
   stress response post-op.   As above, unlikely to be infection
   - f/u  urine cx, blood cxs
   - Check c diff toxin once pt stools
   - Monitor temp curve, WBC.
   # Elevated INR: likely in setting of poor nutritional status and
   supratherapeutic heparin gtt. INR now down to 1.4
   - vit K x3 days (today is day 2)
   - Nutrition recs
   #) Afib w/ RVR: Patient without RVR for 24 hours, off esmolol gtt.
   However, now on no nodal agents.  Had been on diltiazem at home.
   -cont dig and PO metoprolol
   #) Bilateral DVT - Presented with bilateral LE swelling. Seems to have
   been on coumadin as outpt. Now s/p IVC filter placement. V/Q scan at
   OSH negative for PE.  HIT antibody negative.
   - continue heparin gtt.
   #) Thrombocytopenia: Platelets now rising to 267 today. Was concern for
   HIT given decreased >50% and heparin products. HIT negative, heparin
   gtt restarted.
   # Bilateral hydronephrosis/Acute renal failure - [**2-16**] massive tumor
   compression now resolving with IVFs and s/p tumor debulking. Cr to 0.8
   today from high of 2.1 on admission.
   - Continue to monitor Cr, urine output closely.
   .
   #Constipation:  Likely post-surgical.
   -continue tube feeds at 10cc/hr. Pt may also take ice chips until
   starts to pass gas.
    # Uterine mass - Recently diagnosed and likely endometrial vs ovarian
   CA. Path here pending.
   - Appreciate gyn-onc following.
   - f/u path.
   #) Decubitus Ulcer - From home. Stage 2 sacral decub ulcer. Also ulcer
   on toe grew MSSA- but healing and ?contaminant.
   - Appreciate wound care following. Dressing changes per wound care.
   - b/l waffle boots.
   #) DM type II
 Sugars well contolled with NPH.
   -NPH 8qam, 8qpm
   # Comm: with pt's son, [**Name (NI) 4546**] [**Telephone/Fax (1) 4547**] (h), [**Telephone/Fax (1) 4548**] (c)- gyn
   onc talked with pt
s family directly today while they were in visiting
   ICU Care
   Nutrition: TF at 10cc/hr resumed s/p extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2194-01-13 07:35:00 Physician Resident Progress Note
Chief Complaint: 64 yo F with MMP s/p ex-lap for resection of pelvic
   mass, admitted for post-op hypotension requiring IVFs and pressors.
   Hypotension now resolved, and patient undergoing diuresis after fluid
   resuscitation.
   24 Hour Events:
   -Extubated on am rounds. Did well all day weaned to 2L NC. Post
   extubation ABG: 7.42/34/144
   -Gave lasix 20 IV in evening and put out 900cc in 1 hr to be neg >1L
   for day
   -Passing gas so TF at 10cc continued and giving sips of clear liquids.
   Residuals 5cc in evening
   -PICC line unable to be placed by IV team. Ordered for IR for tomorrow
   -being called out to ob/gyn floor today
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfur
   Elemental
   Swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2194-1-10**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2194-1-13**] 04:00 AM
   Other medications:
   metoprolol 25 mg PO TID
   Digoxin 0.125 mcg PO daily
   vitamin K x3 days
   Colace
   Morphine sulfate IV q4H:Prn
   Zofran
   Miconazole powser
   Paroxetine 30 mg PO daily
   Lipitor 10 mg PO daily
   Amitryptiline 25 mg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 80 (65 - 91) bpm
   BP: 124/55(76) {91/36(51) - 141/67(92)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118 kg (admission): 104.5 kg
   Height: 63 Inch
    CVP: 7 (6 - 7)mmHg
   Total In:
                                                                    992 mL
                                                                    329 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
                                                                    106 mL
                                                                     93 mL
   IVF:
                                                                    693 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    472 mL
   Urine:
                                                                  2,140 mL
                                                                    472 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,148 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (443 - 443) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/34/144/26/-1
   Ve: 8.6 L/min
   PaO2 / FiO2: 411
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, surgical wound d/c/i
   Extremities: Right: 3+, Left: 3+, toe wound bandage c/d/i
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   9.3 g/dL
   113 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   12 mg/dL
   109 mEq/L
   143 mEq/L
   27.2 %
   10.5 K/uL
        [image002.jpg]
                            [**2194-1-10**]  04:02 AM
                            [**2194-1-10**]  04:10 AM
                            [**2194-1-10**]  06:46 PM
                            [**2194-1-11**]  03:22 AM
                            [**2194-1-11**]  03:40 AM
                            [**2194-1-11**]  03:15 PM
                            [**2194-1-12**]  04:55 AM
                            [**2194-1-12**]  05:20 AM
                            [**2194-1-12**]  03:30 PM
                            [**2194-1-13**]  04:30 AM
   WBC
   14.1
   14.7
   11.9
   10.5
   Hct
   28.3
   30.5
   27.8
   27.2
   Plt
   171
   239
   267
   305
   Cr
   1.0
   1.1
   1.1
   0.9
   0.8
   0.8
   TCO2
   27
   27
   29
   23
   Glucose
   106
   118
   101
   103
   112
   124
   113
   Other labs: PT / PTT / INR:14.4/65.9/1.3, CK / CKMB /
   Troponin-T:76/3/<0.01, ALT / AST:[**8-26**], Alk Phos / T Bili:57/0.3,
   Fibrinogen:487 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.7 g/dL, LDH:192
   IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment: This is a 64 year-old female with a history of newly
   diagnosed pelvic mass (likely endometrial vs ovarian CA), afib, DM II,
   and obesity who presents with b/l hydronephrosis, ARF, and b/l DVTs now
   s/p ex-lap currently intubated while being diuresed (volume overload
   post-op).
   Plan:
   # Respiratory Failure
 Intubated for during surgery [**1-7**] and remained
   intubated for airway protection and [**2-16**] concerns over risk for flash
   pulmonary edema in setting of volume overload and third spacing.
   Patient doing well on PS and diuresed 2.5L yesterday
    -extubated today
   -post extubation ABG
   -diurese prn with Lasix 20 IV
   # Post-op hypotension
 Resolved.  No evidence of sepsis (no infectious
   source), off antibiotics
   - Monitor Hct daily
   - CVP goal [**8-27**].
   - Hold anti-HTNs (ACEI, b-blocker, HCTZ)
   - Continue diuresis (goal -1 to -2 L) with IV lasix.
   # Leukocytosis
 continued to trend down to 11.9 today, likely cortisol
   stress response post-op.   As above, unlikely to be infection
   - f/u  urine cx, blood cxs
   - Check c diff toxin once pt stools
   - Monitor temp curve, WBC.
   # Elevated INR: likely in setting of poor nutritional status and
   supratherapeutic heparin gtt. INR now down to 1.4
   - vit K x3 days (today is day 2)
   - Nutrition recs
   #) Afib w/ RVR: Patient without RVR for 24 hours, off esmolol gtt.
   However, now on no nodal agents.  Had been on diltiazem at home.
   -cont dig and PO metoprolol
   #) Bilateral DVT - Presented with bilateral LE swelling. Seems to have
   been on coumadin as outpt. Now s/p IVC filter placement. V/Q scan at
   OSH negative for PE.  HIT antibody negative.
   - continue heparin gtt.
   #) Thrombocytopenia: Platelets now rising to 267 today. Was concern for
   HIT given decreased >50% and heparin products. HIT negative, heparin
   gtt restarted.
   # Bilateral hydronephrosis/Acute renal failure - [**2-16**] massive tumor
   compression now resolving with IVFs and s/p tumor debulking. Cr to 0.8
   today from high of 2.1 on admission.
   - Continue to monitor Cr, urine output closely.
   .
   #Constipation:  Likely post-surgical.
   -continue tube feeds at 10cc/hr. Pt may also take ice chips until
   starts to pass gas.
    # Uterine mass - Recently diagnosed and likely endometrial vs ovarian
   CA. Path here pending.
   - Appreciate gyn-onc following.
   - f/u path.
   #) Decubitus Ulcer - From home. Stage 2 sacral decub ulcer. Also ulcer
   on toe grew MSSA- but healing and ?contaminant.
   - Appreciate wound care following. Dressing changes per wound care.
   - b/l waffle boots.
   #) DM type II
 Sugars well contolled with NPH.
   -NPH 8qam, 8qpm
   # Comm: with pt's son, [**Name (NI) 4546**] [**Telephone/Fax (1) 4547**] (h), [**Telephone/Fax (1) 4548**] (c)- gyn
   onc talked with pt
s family directly today while they were in visiting
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2194-1-13**] 01:59 AM 15 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2194-1-7**] 07:55 PM
   Multi Lumen - [**2194-1-7**] 07:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: being called out to the floor.